US07320995B2
1-isopropylsulfonyl-2-amino-6-formylbenzimidazole
Add phenyllithium (750 mL, 1.8 M in cyclohexane/ether, 70/30) over 1 hour to a solution of 1-isopropylsulfonyl-2-amino-6-iodobenzimidazole (150 g, 0.41 mol) in tetra-hydrofuran (5.6 L) at −76° C. Stir for 15 minutes and then add tert-butyllithium (750 ml, 1.7 M in pentane). After 1 hour add dimethylformamide (250 mL) slowly over one hour and then warm to 0° C. Quench by pouring the reaction mixture into a mixture of cold saturated aqueous ammonium chloride (500 g, 5 L) and concentrated hydrochloric acid (300 mL). Separate the layers, wash the organic phase with water and then concentrate under reduced pressure. Slurry the residue in methanol (500 mL), filter the yellow precipitate, and dry to provide 85 g (76%) of the title compound.

reactant | phenyllithium | 1.8 M, 750 mL | C1(=CC=CC=C1)[Li]
reactant | 1-isopropylsulfonyl-2-amino-6-iodobenzimidazole | 0.41 mol, 150 g | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)I)N | C10H12IN3O2S
reactant | tert-butyllithium | 1.7 M, 750 ml | C(C)(C)(C)[Li]
reactant | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | tetra-hydrofuran | 5.6 L | O1CCCC1 | C4H8O
product | 1-isopropylsulfonyl-2-amino-6-formylbenzimidazole | 85 g, 76% | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=O)N | C11H13N3O3S
